* /Volumes/DATA/Projects/Elec/Eon/Test/crossover.asc
XU1 N011 HighPassOut Vcc 0 HighPassOut LT1028
XU2 N004 LowPassOut Vcc 0 LowPassOut LT1028
R1 N003 N005 10k
R2 N004 N003 10k
R3 HighPassOut N010 10k
R4 N011 0 10k
C1 LowPassOut N003 10n
C2 N004 0 10n
C3 N010 N005 10n
C4 N011 N010 10n
XU3 N007 N005 Vcc 0 N005 LT1028
R7 N007 N006 10k
R8 N007 Vcc2 1000k
C5 N006 Vin 22n
V1 Vcc 0 DC 9V
R9 Vcc Vcc2 10k
R10 Vcc2 0 10k
C6 Vcc2 0 220µ
C7 Vcc 0 220µ
V2 Vin 0 SINE(0 1 300) AC 1V 0
XU4 LowPassOut N001 Vcc 0 N002 LT1028
XU5 HighPassOut N008 Vcc 0 N009 LT1028
R5 N002 Vout 10k
R6 Vout N009 10k
R11 N009 N008 100k
R12 N008 0 100
R13 N002 N001 50k
R14 N001 0 1k
;.wave "D:/Perso/Effects/Eon/Sound/co_out.wav" 16 22050 Vout
;.tran 2.45
* wavefile="D:/Perso/Effects/Eon/Sound/test.wav" chan=0
.AC OCT 20 1Hz 40kHz
.lib LTC.lib
.backanno
.end
