* /Volumes/DATA/Projects/Elec/Eon/Test/crossover.asc
XU1 N011 HighPassOut Vcc 0 HighPassOut LT1028
XU2 N004 LowPassOut Vcc 0 LowPassOut LT1028
R1 N003 N005 10k
R2 N004 N003 10k
R3 HighPassOut N010 10k
R4 N011 Vcc2 10k
C1 LowPassOut N003 10n
C2 N004 Vcc2 10n
C3 N010 N005 10n
C4 N011 N010 10n
XU3 N007 N005 Vcc 0 N005 LT1028
R7 N007 N006 10k
R8 N007 Vcc2 1000k
C5 N006 Vin 22n
V1 Vcc 0 DC 9V
R9 Vcc Vcc2 10k
R10 Vcc2 0 10k
C6 Vcc2 0 220µ
C7 Vcc 0 220µ
V2 Vin 0 SINE(0 1 300) AC 1V 0
XU4 LowPassOut N001 Vcc 0 N002 LT1028
XU5 HighPassOut N008 Vcc Vcc N009 LT1028
R5 N002 Vout 10k
R6 Vout N009 10k
R11 N009 N008 100k
R12 N008 Vcc2 100
R13 N002 N001 50k
R14 N001 Vcc2 1k
;.wave "D:/Perso/Effects/Eon/Sound/co_out.wav" 16 22050 Vout
;.tran 2.45
* wavefile="D:/Perso/Effects/Eon/Sound/test.wav" chan=0
.AC OCT 20 1Hz 40kHz
.lib LTC.lib
.backanno
.end
